Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
EGD ___ - demonstrated duodenal ulcers

 
History of Present Illness:
Mrs. ___ is a ___ with PMH of HTN, HLD who presents with a
two week history of intermittent, ___ episodes of nausea
without vomiting, but with loss of appetite, PO intolerance, and
sharp ___ upper abdominal pain (RUQ>epigastric) that radiates
around to back in a band-like pattern. Patient reports that she
has had mild abdominal pain for a long time (does not remember
how long). However, two weeks ago the pain got worse and it was
associated with severe nausea and non-bilious non-bloody 
vomiting
(17x in 2 days). Patient reports ingestion of reheated leftover
chicken before the start of the symptoms. 

Since then, she has continued to have episodes of nausea, but
without vomiting. She also endorses early satiety within the 
past
2 weeks, as well as subjective fever/chills/night sweats
intermittently over the last 2 weeks. She has denied any
significant loss of weight (lost 5 lbs over the last 2 weeks in
the setting of decreased PO intake), diarrhea, hematemesis,
hematochezia, dyspepsia, dysphagia, acid reflux, or excessive
flatulence. She has had some constipation relieved by docusate.
Last BM was ___ night. Pt was transferred from ___
following CT Abd that showed a thickening of the proximal
duodenum concerning for a mass vs. duodenal bulb. It is unknown
if the contrast passed.

Patient is currently not having any emesis.

In the ED, initial vitals:  T 97.3 HR 81 BP 142/78 RR 16 94% RA

Exam notable for:
- soft, non-distended abdomen, TTP in RUQ and epigastric,
negative ___ sign, no rebound or guarding, no
hepatosplenomegaly, bowel sounds present

Labs notable for: 
- WBC 13.2
- PLT 406
- ALT 81
- AST 96
- AP 75
- Tbili 0.5
- Alb 3.1
- Bicarb 21
- Lactate 1.6
- UA: moderate blood, ketone 40, RBC 19, few bacteria
- Urine cx pending

Imaging notable for: 
- CT abdomen
- RUQ US

Pt given:  
- IVF NS
- PO Pantoprazole 40 mg @ 21:17  
- PO Acetaminophen-Caff-Butalbital 1 TAB @ 22:08

Vitals prior to transfer:  T 98.9 HR 89 BP 135/50 RR 17 99% RA

 
Past Medical History:
- HTN
- HLD
- Seasonal allergies
 
Social History:
___
Family History:
Brother with lung cancer,  father and brother with heart 
disease, mother died of stroke.  

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================  
VITALS:  T 98.1 HR 86 BP 153/78 RR 20 94% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, no
organomegaly, tender to palpation in RUQ and epigastric area,
voluntary guarding, negative ___ sign
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: grossly intact  

========================
DISCHARGE PHYSICAL EXAM
======================== 
VITALS:  T97.4 (TMax 99.1), HR 70-90s, BP 110-150s/ 50-70s, RR 
18
94-97% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-distended, bowel sounds present, no
organomegaly, mild epigastric TTP
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: grossly intact  

 
Pertinent Results:
___ 04:35PM   WBC-13.2* RBC-4.10 HGB-11.5 HCT-36.2 MCV-88 
MCH-28.0 MCHC-31.8* RDW-13.2 RDWSD-43.2
___ 04:35PM   NEUTS-76.4* LYMPHS-13.3* MONOS-9.0 EOS-0.3* 
BASOS-0.5 IM ___ AbsNeut-10.08* AbsLymp-1.76 AbsMono-1.19* 
AbsEos-0.04 AbsBaso-0.06
___ 04:35PM   GLUCOSE-85 UREA N-8 CREAT-0.8 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-21* ANION GAP-17*
___ 04:35PM   ALT(SGPT)-81* AST(SGOT)-96* LD(LDH)-192 ALK 
PHOS-75 TOT BILI-0.5
___ 04:35PM   ALBUMIN-3.1* CALCIUM-8.5 PHOSPHATE-2.9 
MAGNESIUM-2.0 URIC ACID-3.8
___ 04:35PM   PLT COUNT-406*
___ 06:45PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:45PM URINE  RBC-19* WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-0 TRANS EPI-<1
 
Brief Hospital Course:
Patient Summary:  Mrs. ___ is a lovely ___ with h/o  who 
presented with a two week history of intermittent, ___ 
episodes of nausea and vomiting, loss of appetite, PO 
intolerance, and sharp ___ upper abdominal pain 
(RUQ>epigastric) that radiates around to back in a band-like 
pattern, admitted to Medicine for PO
intolerance and EGD in the setting of duodenal thickening, found 
to have duodenal erosions on EGD.

================================
ACUTE/ACTIVE PROBLEMS ADDRESSED:
================================  
# RUQ/epigastric abdominal pain, nausea/vomiting, PO 
intolerance:
RUQ>epigastric pain radiating to the back. Lipase non-elevated, 
CT findings not concerning for pancreatitis. Elevated WBC 13.2 
on admission, uptrending to 13.8. Lactate wnl. CT abdomen was 
concerning for duodenal thickening (mass vs. duodenal bulb). 
RUQUS was normal. EGD demonstrated duodenal ulcers, for which 
biopsy was taken. Stool was sent to test for H. Pylori. We 
started her on Pantoprazole 40mg daily.

# Transaminitis: ALT 81/ AST 96 / AP 75 / Tbili 0.5 on 
admission. RUQUS was normal. Denies EtOH use. Viral hepatitis 
panel found to have +HBsAb and HBcAb (negative HBsAg) - 
indicative of recovery from prior HBV infection. Hepatitis A and 
C were negative.

#Normocytic Anemia, improved: Hgb 10.4 (from 11.5), back to 11.3 
at discharge. Did not demonstrate any signs of active bleeding 
during hospitalization. Iron studies concerning for anemia of 
chronic disease. 

===============
Chronic Issues
===============
#  HTN: Continued home Losartan and Aspirin
#  HLD: Continued home Simvastatin
#  Insomnia: Continued home Trazodone 50mg prn insomnia

====================
Transitional Issues
====================
-Follow up on Biopsy results
-Follow up on H. Pylori stool antigen results
-Repeat CBC in ~1 week to evaluate leukocytosis
-Repeat LFTs in ~1 week to evaluate transaminitis
-Follow up on left hepatic mass with slow interval growth per CT
-Follow up on abnormal endometrial thickening per CT - pelvic 
ultrasound recommended
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Calcium Carbonate Dose is Unknown  PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN nausea  
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
3.  Calcium Carbonate 1000 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Losartan Potassium 50 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Duodenal erosions

Secondary:
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ for abdominal pain, nausea, and 
vomiting. ___ had an EGD (endoscopy) which showed an enlargement 
of a part of your bowels called the Duodenum, likely 
representing an infection. We took biopsies of your duodenum and 
are waiting for the results. We started ___ on an acid blocker 
(Omeprazole) to help with your belly pain. 

We recommend following up with your primary care doctor within 
one week.

It was a pleasure taking care of ___,
Your ___ Team
 
Followup Instructions:
___